US04604390
5-Amino-N,N-diethyl-9-phenylmethoxy-2H[1]benzothiopyrano[4,3,2-cd]indazole-2-ethanamine
A mixture of 0.47 g (0.001 mol) of N,N-diethyl-5-nitro-9-phenylmethoxy-2H[1]benzothiopyrano[4,3,2-cd]indazole-2-ethanamine, 0.5 of Raney nickel, and 100 ml of MeOH was hydrogenated in a Parr shaker at 25° C. and an initial pressure of 50.0 psi. The mixture was filtered and the filtrate was concentrated to dryness. Crystallization of the residue from the appropriate solvent furnished the product.

reactant | N,N-diethyl-5-nitro-9-phenylmethoxy-2H[1]benzothiopyrano[4,3,2-cd]indazole-2-ethanamine | 0.001 mol, 0.47 g | C(C)N(CCN1N=C2C=3C(=C(C=CC13)[N+](=O)[O-])SC1=C2C=C(C=C1)OCC1=CC=CC=C1)CC | C26H26N4O3S
catalyst | Raney nickel | [Ni] | Ni
solvent | MeOH | 100 ml | CO | CH4O
product | 5-Amino-N,N-diethyl-9-phenylmethoxy-2H[1]benzothiopyrano[4,3,2-cd]indazole-2-ethanamine | NC1=C2C=3C(=NN(C3C=C1)CCN(CC)CC)C1=C(S2)C=CC(=C1)OCC1=CC=CC=C1 | C26H28N4OS
